US08563717B2
6-Amino-2-(butyloxy)-9-[(1-cyclopentyl-3-piperidinyl)methyl]-7,9-dihydro-8H-purin-8-one hydrochloride
To a solution of 2-(butyloxy)-9-[(1-cyclopentyl-3-piperidinyl)methyl]-8-(methyloxy)-9H-purin-6-amine (37.2 mg, 0.092 mmol) in methanol (3 ml) at room temperature was added 4.0 M HCl in 1,4-dioxane (0.578 ml). The reaction mixture was stirred at ambient temperature overnight. The reaction solution was evaporated under N2 in a Radleys blow down unit to give the title compound as an off-white solid (39 mg). LCMS (System B): tRET=1.39 min; MH+ 389

reactant | 2-(butyloxy)-9-[(1-cyclopentyl-3-piperidinyl)methyl]-8-(methyloxy)-9H-purin-6-amine | 0.092 mmol, 37.2 mg | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CC1CN(CCC1)C1CCCC1)OC)N | C21H34N6O2
reactant | HCl | 4.0 M | Cl | ClH
solvent | methanol | 3 ml | CO | CH4O
solvent | 1,4-dioxane | 0.578 ml | O1CCOCC1 | C4H8O2
product | 6-Amino-2-(butyloxy)-9-[(1-cyclopentyl-3-piperidinyl)methyl]-7,9-dihydro-8H-purin-8-one hydrochloride | 39 mg | Cl.NC1=C2NC(N(C2=NC(=N1)OCCCC)CC1CN(CCC1)C1CCCC1)=O | InChI=1S/C20H32N6O2.ClH/c1-2-3-11-28-19-23-17(21)16-18(24-19)26(20(27)22-16)13-14-7-6-10-25(12-14)15-8-4-5-9-15;/h14-15H,2-13H2,1H3,(H,22,27)(H2,21,23,24);1H
